US07691882B2
3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a mixture of 4-benzyloxy-phenyl-acetohydroximoyl chloride (140 mg, 0.51 mmol) described in Manufacturing Example 1-1-3 and tetrahydrofuran (10 mL) were added 3-ethynyl-pyridin-2,6-diamine (102 mg, 0.76 mmol) described in Manufacturing Example 13-1-3 and triethylamine (0.71 mL, 5.1 mmol), which was stirred overnight at room temperature. The reaction mixture was then stirred for further 1.5 hours at 55° C. The reaction solution was cooled to room temperature and concentrated under a reduced pressure. The residue was filtered by NH silica gel column chromatography (ethyl acetate) to obtain a crude product. The crude product was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid). The solvent was evaporated under a reduced pressure, and the residue was filtered with NH silica gel to obtain the title compound (51 mg, 27%).

reactant | 4-benzyloxy-phenyl-acetohydroximoyl chloride | 0.51 mmol, 140 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=NO)Cl | C15H14ClNO2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.76 mmol, 102 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 5.1 mmol, 0.71 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 51 mg, 27% | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H20N4O2
